US06583126B2
Step 5 isopropyl 4-[1-{4-[[di(tert-butoxy)phosphoryl](difluro)methyl]benzyl}-4-{4-[(diethoxyphosphoryl)(difluoro)methyl]phenyl}-1-(4-fluorobenzoyl)butyl]benzoate
To a solution of isopropyl 4-[(E)-1-{4-[[di(tert-butoxy)phosphoryl](difluro)methyl]benzyl}-4-{4-[(diethoxyphosphoryl)(difluoro)methyl]phenyl}-1-(4-fluorobenzoyl)-3-butenyl]benzoate in ethyl acetate was added palladium on charcoal. The mixture ws then hydrogenated on a Parr apparatus at 50 psi. The reaction mixture was filtered and evaporated to give 0.02 g of the title compound.

reactant | isopropyl 4-[(E)-1-{4-[[di(tert-butoxy)phosphoryl](difluro)methyl]benzyl}-4-{4-[(diethoxyphosphoryl)(difluoro)methyl]phenyl}-1-(4-fluorobenzoyl)-3-butenyl]benzoate | C(C)(C)(C)OP(=O)(OC(C)(C)C)C(C1=CC=C(CC(C\C=C\C2=CC=C(C=C2)C(F)(F)P(=O)(OCC)OCC)(C(C2=CC=C(C=C2)F)=O)C2=CC=C(C(=O)OC(C)C)C=C2)C=C1)(F)F | C48H57F5O9P2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | isopropyl 4-[1-{4-[[di(tert-butoxy)phosphoryl](difluro)methyl]benzyl}-4-{4-[(diethoxyphosphoryl)(difluoro)methyl]phenyl}-1-(4-fluorobenzoyl)butyl]benzoate | 0.02 g | C(C)(C)(C)OP(=O)(OC(C)(C)C)C(C1=CC=C(CC(CCCC2=CC=C(C=C2)C(F)(F)P(=O)(OCC)OCC)(C(C2=CC=C(C=C2)F)=O)C2=CC=C(C(=O)OC(C)C)C=C2)C=C1)(F)F | C48H59F5O9P2
